US09193935B2
8.2: 1-tert-Butyl-4-(2-methyl-5-p-tolylpent-3-enyl)benzene
Starting from p-methylphenethyltriphenylphosphonium bromide (5.04 g, 9.91 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 6.2 mL, 9.91 mmol, 1.0 equiv.) and 3-(4-tert-butylphenyl)-2-methylpropanal (3.04 g, 14.9 mmol, 1.5 equiv.), 1.26 g (42%) of the title compound as a light yellow oil was obtained after purification by flash chromatography on SiO2 (cyclohexane/EtOAc 997:3).

reactant | p-methylphenethyltriphenylphosphonium bromide | 9.91 mmol, 5.04 g, 1.0 equiv. | [Br-].CC1=CC=C(CC[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | n-BuLi | 9.91 mmol, 1.6 M, 6.2 mL, 1.0 equiv. | [Li]CCCC
reactant | 3-(4-tert-butylphenyl)-2-methylpropanal | 14.9 mmol, 3.04 g, 1.5 equiv. | C(C)(C)(C)C1=CC=C(C=C1)CC(C=O)C | C14H20O
product | 1-tert-Butyl-4-(2-methyl-5-p-tolylpent-3-enyl)benzene | 1.26 g, 42% | C(C)(C)(C)C1=CC=C(C=C1)CC(C=CCC1=CC=C(C=C1)C)C | C23H30
